US06166006
To a solution of methyl 7-(4-morpholinophenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate (0.55 g) in ethanol/THF (30/30 ml) was added at room temperature 1N sodium hydroxide solution (1.8 ml), and the mixture was stirred for 6 days and then refluxed for 2 hours. To the mixture was added 1N hydrochloric acid (1.8 ml). The resulting solid was collected by filtration, which was washed with ethanol and diethylether to give yellow powder of 7-(4-morpholinophenyl)-2,3-dihydro-1-benzo-thiepine-4-carboxylic acid (502.2 mg).

reactant | methyl 7-(4-morpholinophenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.55 g | O1CCN(CC1)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C22H23NO3S
reactant | sodium hydroxide | 1N, 1.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.8 ml | Cl | ClH
solvent | ethanol THF | 30 ml | C(C)O.C1CCOC1
product | 7-(4-morpholinophenyl)-2,3-dihydro-1-benzo-thiepine-4-carboxylic acid | 502.2 mg | O1CCN(CC1)C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)O)C1 | C21H21NO3S
